US06528456B2
1A Preparation of 2-chloro-6-acetylpyridine
A solution of 2-chloro-6-cyanopyridine (50 g) in THF (400 ml) is cooled to −5° C. and a solution of methylmagnesium iodide in diethyl ether (3 M, 200 ml) is added. After 1 h at 0° C. the ether is destilled off and the THF-mixture is heated to 60° C. for 1 h. The THF is evaporated and the residue is treated with ice water and acidified with 2 M hydrochloric acid. The water phase is extracted with dichloromethane and after drying and evaporation of the organic phase, the residue is purified by silica-gel flash chromatography. The title compound is obtained as an oil (11.2 g).

reactant | 2-chloro-6-cyanopyridine | 50 g | ClC1=NC(=CC=C1)C#N | C6H3ClN2
reactant | methylmagnesium iodide | C[Mg]I
reactant | THF | 400 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 3 M, 200 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-chloro-6-acetylpyridine | ClC1=NC(=CC=C1)C(C)=O | C7H6ClNO
